US04556711
To a stirred solution of N-phenylhydroxylamine (8 g) in ether (80 ml) at 0° C. was added dropwise over 10 minutes ethyl succinyl chloride (5.76 g). The reaction mixture was allowed to attain room temperature overnight, filtered and the filtrate evaporated to give N-(3-ethoxycarbonylpropionyl)-N-phenylhydroxylamine as an oil.

reactant | N-phenylhydroxylamine | 8 g | C1(=CC=CC=C1)NO | C6H7NO
reactant | ethyl succinyl chloride | 5.76 g | C(C)C(C(=O)Cl)CC(=O)Cl | C6H8Cl2O2
reactant | ether | 80 ml | CCOCC | C4H10O
product | N-(3-ethoxycarbonylpropionyl)-N-phenylhydroxylamine | C(C)OC(=O)CCC(=O)N(O)C1=CC=CC=C1 | C12H15NO4
